US04889947
3-Methoxy-4,4a,5,6-tetrahydro-2(3H)-naphthalenone
This material is prepared according to the procedure for Preparation 9 wherein 2,3-dimethoxynaphthalene is substituted for 1,2,3,4-tetrahydro-6-methoxy-1-methyl-1-naphthalenol.

reactant | 2,3-dimethoxynaphthalene | COC1=CC2=CC=CC=C2C=C1OC | C12H12O2
reactant | 1,2,3,4-tetrahydro-6-methoxy-1-methyl-1-naphthalenol | COC=1C=C2CCCC(C2=CC1)(O)C | C12H16O2
product | 3-Methoxy-4,4a,5,6-tetrahydro-2(3H)-naphthalenone | COC1C(C=C2C=CCCC2C1)=O | C11H14O2
